US03968116
4-Chloro-3-nitro-2-aminopyridine is reacted with trifluoroacetic anhydride to obtain 4-chloro-3-nitro-2-(trifluoroacetamido)pyridine, which when hydrogenated yields 7-chloro-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine, m.p., 170°-1°C.

reactant | 4-Chloro-3-nitro-2-aminopyridine | ClC1=C(C(=NC=C1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-chloro-3-nitro-2-(trifluoroacetamido)pyridine | ClC1=C(C(=NC=C1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C7H3ClF3N3O3
